* eeschema netlist version 1.1 (spice format) creation date: monday 15 april 2013 08:10:56 pm ist

* Plotting option vplot8_1
v1  3 5 10
r2  6 3 2000
V_u2 6 2 0
V_u1 4 1 0
r1  5 1 1000
q1 4 0 2 pnp

.dc  v1 0e-00 10e-00 5e-03

* Control Statements 
.control
run
plot v(4) v(6) 
plot i(V_u2)
plot i(V_u1)
.endc
.end
